* File: G2_AOI21_N1.pex.netlist.pex
* Created: Mon Apr 11 11:24:15 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G2_AOI21_N1_VSS 2 4 6 8 19 25 38 43 48 57 66 67 69 77 78 79 83 84 86
+ 88 89 Vss
c53 89 Vss 4.28045e-19
c54 86 Vss 0.00420179f
c55 84 Vss 0.00142701f
c56 83 Vss 8.42815e-19
c57 79 Vss 0.00125695f
c58 78 Vss 4.66086e-19
c59 77 Vss 0.00243143f
c60 69 Vss 0.00100335f
c61 68 Vss 0.00135524f
c62 67 Vss 0.00884313f
c63 66 Vss 0.00244299f
c64 57 Vss 0.00663377f
c65 48 Vss 1.70165e-19
c66 43 Vss 0.00203396f
c67 38 Vss 0.00129403f
c68 25 Vss 0.0827803f
c69 19 Vss 0.034042f
c70 18 Vss 0.0688517f
c71 8 Vss 0.0810091f
c72 6 Vss 0.00226958f
c73 4 Vss 0.0797379f
c74 2 Vss 0.00290534f
r75 85 89 0.551426
r76 85 86 13.3371
r77 84 89 0.551426
r78 83 88 0.326149
r79 83 84 4.12618
r80 79 89 0.0828784
r81 77 86 0.652036
r82 77 78 4.33457
r83 73 78 0.652036
r84 67 88 0.326149
r85 67 68 15.1308
r86 66 69 0.655813
r87 65 68 0.652298
r88 65 66 4.12618
r89 48 79 1.82344
r90 43 57 1.16709
r91 43 73 2.16729
r92 38 69 1.82344
r93 25 57 0.238214
r94 23 25 2.04225
r95 20 23 0.0685365
r96 18 23 0.5835
r97 18 19 2.8008
r98 15 19 0.652036
r99 8 20 2.5674
r100 6 48 1.16709
r101 4 15 2.5674
r102 2 38 1.16709
.ends

.subckt PM_G2_AOI21_N1_VDD 2 4 6 8 10 45 46 48 50 54 56 57 58 63 65 67 68 74 Vss
c60 74 Vss 0.00498639f
c61 68 Vss 3.56526e-19
c62 65 Vss 0.00188744f
c63 63 Vss 0.00658029f
c64 58 Vss 0.00166035f
c65 57 Vss 6.17427e-19
c66 56 Vss 0.0030725f
c67 54 Vss 0.0015334f
c68 50 Vss 0.0128179f
c69 48 Vss 0.00148319f
c70 46 Vss 0.00118366f
c71 45 Vss 0.00509044f
c72 33 Vss 0.0307391f
c73 26 Vss 0.10055f
c74 22 Vss 0.0348457f
c75 21 Vss 0.0712517f
c76 10 Vss 0.00241752f
c77 8 Vss 0.0830779f
c78 6 Vss 0.0830019f
c79 4 Vss 0.00285737f
c80 2 Vss 0.0825892f
r81 64 68 0.551426
r82 64 65 4.16786
r83 63 68 0.551426
r84 62 63 13.2955
r85 58 68 0.0828784
r86 58 60 1.82344
r87 56 62 0.652298
r88 56 57 4.22534
r89 54 74 1.16709
r90 52 57 0.652298
r91 52 54 2.12561
r92 51 67 0.326018
r93 50 65 0.652036
r94 50 51 15.6711
r95 46 48 1.82344
r96 45 67 0.326018
r97 44 46 0.655813
r98 44 45 4.16786
r99 29 74 0.238214
r100 27 33 0.494161
r101 27 29 1.45875
r102 26 30 0.652036
r103 26 29 1.45875
r104 23 33 0.128424
r105 21 33 0.494161
r106 21 22 2.8008
r107 18 22 0.652036
r108 10 60 1.16709
r109 8 30 2.5674
r110 6 23 2.5674
r111 4 48 1.16709
r112 2 18 2.5674
.ends

.subckt PM_G2_AOI21_N1_B 2 4 20 23 29 Vss
c19 29 Vss 0.00607059f
c20 23 Vss 9.01834e-19
c21 20 Vss 0.0916059f
c22 16 Vss 0.0586024f
c23 4 Vss 0.0980254f
c24 2 Vss 0.320472f
r25 26 29 1.16709
r26 23 26 0.0833571
r27 18 20 2.04225
r28 16 29 0.197068
r29 13 16 1.2837
r30 10 20 0.0685365
r31 8 18 0.0685365
r32 7 13 0.0685365
r33 4 10 3.0342
r34 2 8 8.6358
r35 2 7 2.5674
.ends

.subckt PM_G2_AOI21_N1_C 2 4 6 17 24 28 31 35 38 42 45 58 Vss
c45 58 Vss 0.00118496f
c46 45 Vss 0.00482667f
c47 38 Vss 0.00276154f
c48 31 Vss 0.00515878f
c49 28 Vss 0.0945059f
c50 24 Vss 0.0559062f
c51 17 Vss 1.54762e-19
c52 6 Vss 0.178585f
c53 4 Vss 0.147123f
c54 2 Vss 0.0809403f
r55 54 58 0.652036
r56 38 58 5.16814
r57 38 42 0.0416786
r58 31 45 1.16709
r59 31 54 8.58579
r60 31 35 0.0416786
r61 26 28 2.04225
r62 24 45 0.197068
r63 21 24 1.2837
r64 18 28 0.0685365
r65 17 38 1.16709
r66 13 26 0.0685365
r67 13 17 2.8008
r68 10 21 0.0685365
r69 6 18 5.835
r70 4 17 3.0342
r71 2 10 2.5674
.ends

.subckt PM_G2_AOI21_N1_Z 2 4 30 33 Vss
c30 30 Vss 0.00225284f
c31 4 Vss 0.00143442f
c32 2 Vss 0.00153036f
r33 33 35 3.83443
r34 30 33 5.33486
r35 4 35 1.16709
r36 2 30 1.16709
.ends

.subckt PM_G2_AOI21_N1_A 2 4 10 11 13 14 15 20 24 28 31 Vss
c37 31 Vss 4.87906e-19
c38 28 Vss 4.59888e-19
c39 24 Vss 1.50097e-19
c40 20 Vss 0.0822806f
c41 18 Vss 0.0247918f
c42 15 Vss 0.032139f
c43 14 Vss 0.0725371f
c44 13 Vss 0.0312529f
c45 11 Vss 0.0345237f
c46 10 Vss 0.122163f
c47 2 Vss 0.188674f
r48 28 31 1.16709
r49 24 31 0.262036
r50 20 31 0.238214
r51 18 24 0.326018
r52 18 20 0.64185
r53 15 24 2.50905
r54 14 24 0.326018
r55 14 24 0.1167
r56 13 15 0.652036
r57 12 13 1.22535
r58 10 12 0.652036
r59 10 11 3.09255
r60 7 11 0.652036
r61 4 20 2.4507
r62 2 7 6.1851
.ends

